US08227477B2
To a 1 Liter reactor was added Nilotinib-base form A (20 g, 0.04 mol), absolute ethanol (200 ml), and HCl 32% solution in water (6.45 g, 0.04 mol). The slurry was heated to reflux, dissolution occurred during the stirring, and the mixture was filtered under reduced pressure. The Filtrate was fed to second reactor and heated back to reflux. At 76.0° C. the solution was seeded with 0.2 g of dry material obtained by the process of example 23. Precipitation was observed. Then, maintained at reflux for 0.5 h, followed by cooling for 2 h to 5° C. During cooling at 20° C. absolute ethanol was added (100 ml) and the slurry stirred till reaching to 5° C., filtered, washed with absolute ethanol, and dried over night at 70° C. in vacuum oven to yield Nilotinib-HCl form T17 (16.3 g, 73% yield).

reactant | Nilotinib | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F | C28H22F3N7O
reactant | HCl | Cl | ClH
reactant | water | 0.04 mol, 6.45 g | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Nilotinib HCl | 73% yield | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F.Cl | InChI=1S/C28H22F3N7O.ClH/c1-17-5-6-19(10-25(17)37-27-33-9-7-24(36-27)20-4-3-8-32-14-20)26(39)35-22-11-21(28(29,30)31)12-23(13-22)38-15-18(2)34-16-38;/h3-16H,1-2H3,(H,35,39)(H,33,36,37);1H
